US07825256B2
A solution of benzo[1,3]dioxol-5-ylmethyl-(3-methylamino-propyl)-carbamic acid tert-butyl ester (10 g, 46 mmol), 3,5-dichloro-1,2,4-thiadiazole (7.1 g, 46 mmol), DMSO (20 mL) and TEA (20 mL) was stirred at r.t. for 20 min. Water (150 mL) was added and the solution was extracted with ethyl acetate (2×150 mL), washed with brine and dried over Na2SO4. Evaporation of the solvent gave 14 g (69%) of benzo[1,3]dioxol-5-ylmethyl-{3-[(3-chloro-[1,2,4]thiadiazol-5-yl)-methyl-amino]-propyl}-carbamic acid tert-butyl ester as a clear gum. The product was used directly in the next step. 1H-NMR (400 MHz, CD3OD) δ 6.77 (m, 3H), 5.96 (s, 2H), 4.35 (s, 2H), 3.4-3.0 (m, 6H), 1.84 (br s, 3H), 1.50 (s, 9H).

reactant | benzo[1,3]dioxol-5-ylmethyl-(3-methylamino-propyl)-carbamic acid tert-butyl ester | 46 mmol, 10 g | C(C)(C)(C)OC(N(CCCNC)CC1=CC2=C(OCO2)C=C1)=O | C17H26N2O4
reactant | 3,5-dichloro-1,2,4-thiadiazole | 46 mmol, 7.1 g | ClC1=NSC(=N1)Cl | C2Cl2N2S
reactant | DMSO | 20 mL | CS(=O)C | C2H6OS
solvent | Water | 150 mL | O | H2O
product | benzo[1,3]dioxol-5-ylmethyl-{3-[(3-chloro-[1,2,4]thiadiazol-5-yl)-methyl-amino]-propyl}-carbamic acid tert-butyl ester | 14 g, 69% | C(C)(C)(C)OC(N(CCCN(C)C1=NC(=NS1)Cl)CC1=CC2=C(OCO2)C=C1)=O | C19H25ClN4O4S
